US04340730
To 100 ml of absolute ethanol, stirred under a dry nitrogen atmosphere and cooled in an ice bath, was added 12.0 ml (167 mmole) of thionyl chloride, followed by 10.0 gm (85.3 mmole) of 5-aminopentanoic acid. The mixture was heated at reflux for 18 hours, cooled and concentrated in vacuo to a sticky solid. The crude ester was triturated with 150 ml of diethyl ether, and the resultant fluffy white solid was collected, washed thoroughly with diethyl ether, and dried in vacuo over potassium hydroxide to give 14.3 gm (78.7 mmole) of ethyl 5-aminopentanoate hydrochloride. The ester was sufficiently pure according to nmr spectroscopy (in (CD3)2SO) for subsequent use without further purification.

reactant | thionyl chloride | 167 mmole, 12.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminopentanoic acid | 85.3 mmole, 10.0 gm | NCCCCC(=O)O | C5H11NO2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 5-aminopentanoate hydrochloride | 78.7 mmole, 14.3 gm | Cl.NCCCCC(=O)OCC | InChI=1S/C7H15NO2.ClH/c1-2-10-7(9)5-3-4-6-8;/h2-6,8H2,1H3;1H
